US07468443B2
In 13.0 mL of tetrahydrofuran was dissolved 1.28 g of 2-[2-(1-benzofuran-5-yl)ethoxy]acetic acid and the solution was cooled to 5° C., after which 1.41 g of 1,1′-carbonyldiimidazole was added thereto and the resulting mixture was stirred at room temperature for 2 hours. To the reaction mixture were added 1.22 mL of triethylamine and 0.72 mL of 3-pyrrolidinol, followed by stirring at room temperature for 2 hours. Water and ethyl acetate were added to the reaction mixture and the pH was adjusted to 1 with 6 mol/L hydrochloric acid, after which the organic layer was separated. The organic layer was washed with a saturated aqueous sodium hydrogencarbonate solution and then a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. Then, the solvent was distilled off under reduced pressure to obtain 1.39 g of 2-[2-(1-benzofuran-5-yl)ethoxy]-1-(3-hydroxy-1-pyrrolidinyl)-1-ethanone as a colorless oil.

reactant | 2-[2-(1-benzofuran-5-yl)ethoxy]acetic acid | 1.28 g | O1C=CC2=C1C=CC(=C2)CCOCC(=O)O | C12H12O4
reactant | 1,1′-carbonyldiimidazole | 1.41 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-pyrrolidinol | 0.72 mL | N1CC(CC1)O | C4H9NO
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | tetrahydrofuran | 13.0 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | triethylamine | 1.22 mL | C(C)N(CC)CC | C6H15N
product | 2-[2-(1-benzofuran-5-yl)ethoxy]-1-(3-hydroxy-1-pyrrolidinyl)-1-ethanone | 1.39 g | O1C=CC2=C1C=CC(=C2)CCOCC(=O)N2CC(CC2)O | C16H19NO4
